.title Transistor Diodes

* LIBRARIES
.include "./lib/bs170.cir"
.include "./lib/bs250.cir"
.include "./lib/jumper.cir"
.include "./lib/TL082.cir"
.include "./lib/q2n3904.cir"
.include "./lib/q2n3906.cir"

* SIMULATION OPTIONS
.save all
.probe alli
.tran 100u 2m

* CIRCUIT
VSS33 0 -3V3 DC 3.3 
VDD33 +3V3 0 DC 3.3 
VDD5 +5V 0 DC 5.0 

Vin2 /IN-1 0 PULSE( -0.92 0.68 0 0.5m 0.5m 100p 1m 4 ) 

R1 /IN-1 /VN 2.2k
R2 /VN /OUT-1 10k
R3 /OUT-1 /OUT-2 1k
XU1 0 /VN +5V -3V3 /OUT-1 TL082

XJumperTransistorauswahl1 /OUT-2 /BS250 /OUT-2 /BS170 /OUT-2 /2N3906 /OUT-2 /2N3904 myjumper

Q1 /2N3904 /2N3904 0 Q2N3904
Q2 /2N3906 /2N3906 +3V3 Q2N3906
XM1 /BS170 /BS170 0 BS170
XM2 /BS250 /BS250 +3V3 BS250
.end

